US05208228
17-Ethyl-1,14-dihydroxy-12-[2-(4"-formamido-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos- 18-ene-2,3,10,16-tetraone
The compound 17-ethyl-1,14-dihydroxy-12-[2'-(4"-amino-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (30 mg) was mixed with methyl formate (0.5 ml) and stirred at 0° C. for 1 hr. The reaction mixture was allowed to warm to room temperature and then stirred overnight. The excess methylformate was removed with nitrogen flow and the crude mixture was purified by preparative tlc on silica gel (1000 microns, 5% i-PrOH/CH2Cl2) to give 25 mg of the title compound. (Mass, 1H and 13C data were consistent with the proposed structure).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-amino-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 30 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N)OC)C)C)O)=O | C43H70N2O11
reactant | methyl formate | 0.5 ml | C(=O)OC | C2H4O2
product | 17-Ethyl-1,14-dihydroxy-12-[2-(4"-formamido-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos- 18-ene-2,3,10,16-tetraone | 25 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)NC=O)OC)C)C)O)=O | C44H70N2O12
